US09085575B2
91 mg (0.346 mmol) of 3-(3,5-difluorobenzoyl)-1-ethylpyridin-2(1H)-one with 69 mg (0.346 mmol) of tert-butyl 3-amino-1H-pyrazol-5-ylcarbamate and 533 mg (6.91 mmol) of ammonium acetate are added to a boiling flask. The mixture is carried at 200° C. dry (i.e., without solvent) for 15 minutes. The solution is placed at room temperature, and then the solid is dissolved in a water/ethyl acetate mixture. The phases are separated and the aqueous phase is extracted several times with ethyl acetate. The organic phases are mixed, dried on magnesium sulfate and concentrated. The product is purified by silica gel chromatography (eluent: 10:1 dichloromethane/methanol) to yield 32 mg (27%) of 1-amino-5-(3,5-difluorophenyl)-7-ethyl-3H-pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one.

reactant | 3-(3,5-difluorobenzoyl)-1-ethylpyridin-2(1H)-one | 0.346 mmol, 91 mg | FC=1C=C(C(=O)C=2C(N(C=CC2)CC)=O)C=C(C1)F | C14H11F2NO2
reactant | tert-butyl 3-amino-1H-pyrazol-5-ylcarbamate | 0.346 mmol, 69 mg | NC1=NNC(=C1)NC(OC(C)(C)C)=O | C8H14N4O2
reactant | ammonium acetate | 6.91 mmol, 533 mg | C(C)(=O)[O-].[NH4+]
product | 1-amino-5-(3,5-difluorophenyl)-7-ethyl-3H-pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one | 32 mg, 27% | NC1=NNC=2N=C(C=3C(N(C=CC3C21)CC)=O)C2=CC(=CC(=C2)F)F | C17H13F2N5O
